US08445684B2
3-[2-[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]ethyl]phenylmethanol Hydrochloride
3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethanol is dissolved in a mixture of trifluoroacetic acid, CH2Cl2, and water. The reaction is allowed to proceed at room temperature until the starting material is no longer detected by TLC. The solvent is evaporated, and the residue is purified by preparative HPLC (for example, acetonitrile/water gradient on C18). The product-containing fraction is partially evaporated to remove CH3CN, and the product is extracted into CH2Cl2. The organic phase is dried over MgSO4 and evaporated. The residue is taken up in methanol and adsorbed on a cation exchange column. The column is first eluted with methanol to remove neutral or acidic impurities (including residual trifluoroacetic acid), then with methanolic ammonia to recover the product as free base. After evaporation, this material is dissolved in a small volume of methanol, neutralized with a small excess of hydrochloric acid, diluted with water, and lyophilized to yield the product.

reactant | 3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CO | C23H30N2O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 3-[2-[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]ethyl]phenylmethanol Hydrochloride | Cl.N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CO | InChI=1S/C18H22N2O2.ClH/c21-12-16-3-1-2-14(8-16)4-5-15-9-18(11-19-10-15)22-13-17-6-7-20-17;/h1-3,8-11,17,20-21H,4-7,12-13H2;1H/t17-;/m0./s1
